US06914074B2
4-Methoxy-2-methylphenylboronic Acid
The title compound was prepared by reacting 4-bromo-3-methylanisole (10 g, 0.050 mol) with n-butyl lithium (24 mL of 2.5 M solution in hexane, 0.055 mol) followed by triisopropyl borate (57.7 mL, 47.02 g, 0.25 mol) according to method F to yield 5.7 g (69%) of a white solid: MS (ESI) m/z 313 (2M−H2O—H)−.

reactant | 4-bromo-3-methylanisole | 0.050 mol, 10 g | BrC1=C(C=C(C=C1)OC)C | C8H9BrO
reactant | n-butyl lithium | 0.055 mol, 2.5 M, 24 mL | C(CCC)[Li]
reactant | triisopropyl borate | 0.25 mol, 57.7 mL, 47.02 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
product | 4-Methoxy-2-methylphenylboronic Acid | COC1=CC(=C(C=C1)B(O)O)C | C8H11BO3
